US04175133
Dichloro (1,2-diaminocyclohexane)platinum (II) was synthesized as described by Gale et al, Research Communications in Chemical Pathology and Pharmacology, Volume 7, No. 3, Pages 529-538, March 1974. Thus, Potassium tetrachloroplatinite, K2Pt Cl4 (20 mM) in 75 ml water was mixed with 1,2-diaminocyclohexane (20 mM) for three hours at room temperature. The insoluble product was removed by filtration, washed with water and then with methanol, and oven-dried. The yield was approximately 90% of theory. The product was then purified by dissolution in dimethylformamide, filtration, and addition of three volumes of methanol or 0.1 N HCl. This product was filtered, washed, and dried as above. The yield in purification was 47%.

reactant | Potassium tetrachloroplatinite | Cl[Pt-2](Cl)(Cl)Cl.[K+].[K+]
reactant | 1,2-diaminocyclohexane | 20 mM | NC1C(CCCC1)N | C6H14N2
solvent | water | 75 ml | O | H2O
product | Dichloro (1,2-diaminocyclohexane)platinum (II) | yield was approximately 90% | C1CCC(C(C1)N)N.[Cl-].[Cl-].[Pt+2] | InChI=1S/C6H14N2.2ClH.Pt/c7-5-3-1-2-4-6(5)8;;;/h5-6H,1-4,7-8H2;2*1H;/q;;;+2/p-2
